US09402841B2
Step F: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)oxy)-7-fluoroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To (S)-3-(7-fluoro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5 (4H)-one (60 mg, 1.61 mmol) in DCM (10 mL) was added 2,6-dimethylpyridine (51 mg, 0.475 mmol). The mixture was cooled to −40° C. Acryloyl chloride (17 mg, 0.20 mmol) was added and the mixture was warmed to 0° C. over a 30 minute period. The reaction was subsequently quenched with MeOH (5 mL) and the mixture concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (16.4 mg, 27%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.06 (s, 1H), 11.82 (s, 1H), 8.17-8.13 (t, J=8 Hz, 1H), 8.05 (s, 1H), 7.88-7.85 (d, J=12 Hz, 1H), 7.78-7.76 (t, J=8 Hz, 1H), 6.50-6.70 (m, 1H), 6.19-6.13 (m, 2H), 5.73-5.67 (dd, J1=12 Hz, J2=4 Hz, 1H), 4.11-4.08 (m, 0.5H), 3.87-3.82 (m, 2H), 3.69-3.65 (m, 1.5H), 2.38-2.25 (m, 2H); ESI-MS m/z [M+H]+ 370.

reactant | (S)-3-(7-fluoro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5 (4H)-one | 1.61 mmol, 60 mg | FC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CNCC1)C1=NNC(N1)=O | C15H14FN5O2
reactant | 2,6-dimethylpyridine | 0.475 mmol, 51 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | Acryloyl chloride | 0.20 mmol, 17 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)oxy)-7-fluoroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 16.4 mg, 27% | C(C=C)(=O)N1C[C@H](CC1)OC1=NC(=CC2=CC=C(C=C12)F)C1=NNC(N1)=O | C18H16FN5O3
